US04468351
Penicillanic Acid 1,1-Dioxide
A mixture of 6,6-dibromopenicillanic acid 1,1-dioxide (3.92 g, 0.01 mole), NaHCO3 (5.04 g, 0.06 mole) and NaHSO3 (2.5 g, 0.024 mole) in 30 mL H2O was heated at 90° for 2 hours. The reaction mixture was cooled, acidified to pH 1.2 with dilute HCl and extracted with ethyl acetate. The extract was dried and evaporated to yield know title product, 180 mg; tlc Rf 0.1 compared to 0.4 for starting material (19:1 ethyl acetate:acetic acid); pnmr/D2O 1.45 (s, 3H), 1.58 (s, 3H), 3.47 (m, 2H), 4.22 (s, 1H), 4.97 (m, 1H).

reactant | 6,6-dibromopenicillanic acid 1,1-dioxide | 0.01 mole, 3.92 g | CC1([C@@H](N2[C@H](S1(=O)=O)C(C2=O)(Br)Br)C(=O)O)C | C8H9Br2NO5S
reactant | NaHCO3 | 0.06 mole, 5.04 g | C(=O)(O)[O-].[Na+]
reactant | NaHSO3 | 0.024 mole, 2.5 g | OS(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | 30 mL | O | H2O
product | Penicillanic Acid 1,1-Dioxide | CC1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)C | C8H11NO5S
